US06949648B2
2-Hydrazino-3-methylpyridine
The title compound was prepared according to the procedure described in U.S. Pat. No. 4,260,767 (1981). A mixture of 2-bromo-3-methylpyridine (29.0 g, 169 mmol) and hydrazine monohydrate (60 mL, 1.24 mol) was heated and stirred at 100° C. for 4 hours. The mixture was ice cooled, and the resulting crude crystals were filtered. The crystals were washed with cold water and air dried, and recrystallized from chloroform/hexane to give the title compound (12.5 g, 60% yield).

reactant | 2-bromo-3-methylpyridine | 169 mmol, 29.0 g | BrC1=NC=CC=C1C | C6H6BrN
reactant | hydrazine monohydrate | 1.24 mol, 60 mL | O.NN
product | 2-Hydrazino-3-methylpyridine | 12.5 g, 60% yield | N(N)C1=NC=CC=C1C | C6H9N3
